US05695756
Preparation of Anti-Ouabain Antibodies
0.5 g of ouabain octahydrate (0.68 mmol) was dissolved in 4.0 ml of water and 2.0 ml of acetone by gentle warming. At ambient temperature, 0.235 g of NaIO4 (1.1 mmol) was added in a single portion. A precipitate accumulated during this reaction. After 2.5 hr, 1.22 g of K2 HPO4 (5.0 mmol) was added and the reaction was stirred overnight. Then, 85 mg of meso-erythritol (0.65 mmol) was added; the reaction left an additional 60 min; and the acetone removed on a rotary evaporator. The residue was taken up in a small quantity of water and added to the above-described 7.0 ml ovalbumin solution. After stirring at 0° C. for 90 min, 82 mg of solid NaBH3CN (1.30 mmol) was added; then 52 mg of solid NaBH3CN (0.82 mmol) was added after 2.5 hr; and finally 50 mg of solid NaBH3CN (0.80 mmol) was added after 5 hr, with the reaction being maintained at 0° C. throughout. The reaction mixture acquired a cloudy appearance at this time. It was left at 4° C. for three days, with the appearance of significant quantities of precipitate. The entire reaction mixture was dialyzed exhaustively against 65 mM potassium phosphate buffer (pH 6.0), concentrated by lyophilization, and then resuspended in 5.0 ml of water and gently stirred for 2 hr. The precipitate was separated by centrifugation at 1000×g and the soluble protein passed through a φ4.0 cm×23 cm Sephadex G-25 (20-50 μm) column. The protein fractions were combined, dialyzed against 10 mM NaCl, and 0.8 μm filtered to provide 27 ml of solution containing Conjugate 1.

reactant | ouabain octahydrate | 0.68 mmol, 0.5 g | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)O[C@H]2C[C@H]([C@@]3([C@@H]4[C@@H](CC[C@@]3(C2)O)[C@]5(CC[C@@H]([C@]5(C[C@H]4O)C)C6=CC(=O)OC6)O)CO)O)O)O)O.O.O.O.O.O.O.O.O
reactant | acetone | 2.0 ml | CC(=O)C | C3H6O
reactant | meso-erythritol | 0.65 mmol, 85 mg | C([C@H]([C@H](CO)O)O)O | C4H10O4
reactant | NaBH3CN | 1.30 mmol | [BH3-]C#N.[Na+]
reactant | NaBH3CN | 0.82 mmol | [BH3-]C#N.[Na+]
reactant | NaBH3CN | 0.80 mmol | [BH3-]C#N.[Na+]
solvent | water | 4.0 ml | O | H2O
product | Ouabain | 27 ml | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)O[C@H]2C[C@H]([C@@]3([C@@H]4[C@@H](CC[C@@]3(C2)O)[C@]5(CC[C@@H]([C@]5(C[C@H]4O)C)C6=CC(=O)OC6)O)CO)O)O)O)O | C29H44O12
